US08003649B2
6-Chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (400 mg, 1.80 mmol), 1-(1-phenylethyl)piperazine (342 mg, 1.80 mmol) and DIPEA (0.34 mL, 1.98 mmol) in DMF (4 mL) were stirred and heated at 80° C. for 30 minutes. The mixture was cooled to ambient temperature then applied to an SCX column and eluted with methanol followed by 2M ammonia in methanol. Fractions containing pure product were evaporated to give a solid which was recrystallised from MTBE/isohexane to give 6-[4-(1-phenylethyl)piperazin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (516 mg, 76%).

reactant | 6-Chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 1.80 mmol, 400 mg | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | 1-(1-phenylethyl)piperazine | 1.80 mmol, 342 mg | C1(=CC=CC=C1)C(C)N1CCNCC1 | C12H18N2
reactant | DIPEA | 1.98 mmol, 0.34 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 6-[4-(1-phenylethyl)piperazin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 516 mg, 76% | C1(=CC=CC=C1)C(C)N1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C18H19F3N6
